*********************************************************************
*
* IBIS filename: sn74lv1t34.ibs
* Component: SN74LV1T34DBV
* Model: input_3p3
* Model Type: Input
* Corner: FastStrong
* Voltage Range (V): [3.3 3.0 3.6] (Typ, Min, Max)
* Temperature Range (degC): [40.0 -40.0 140.0] (Typ, Min, Max)
* SPICE subcircuit model created with pybis2spice version 1.0
* For more info, visit https://github.com/kamratia1/pybis2spice/
*
*********************************************************************

.SUBCKT input_3p3-Input-FastStrong IN

.param C_pkg = 2.7952e-13
.param L_pkg = 2.04843e-09
.param R_pkg = 0.07001
.param C_comp = 6.814e-13

R1 IN MID {R_pkg}
L1 DIE MID {L_pkg}
C1 IN 0 {C_pkg}
C2 DIE 0 {C_comp}

V1 PWR_CLAMP_REF 0 3.6
B1 DIE PWR_CLAMP_REF I = table(V(DIE), -2.9999999999999996, 0.0, 2.814, 0.0, 2.9928, 1.30888e-08, 2.994, 1.31163e-08, 3.141, 1.68458e-08, 3.1632000000000002, 1.74732e-08, 3.3261000000000003, 2.26419e-08, 3.327, 2.26733e-08, 3.3288, 2.27363e-08, 3.4872, 2.88225e-08, 3.537, 3.09687e-08, 3.5988, 3.37993e-08, 3.599999999999986, 3.38563e-08, 3.600000000000034, 3.38563e-08, 3.6024000000000003, 3.39702e-08, 3.603, 3.39988e-08, 3.6363000000000003, 3.56099e-08, 3.6384000000000003, 3.57132e-08, 3.714, 3.95847e-08, 3.7848, 4.34859e-08, 3.786, 4.35543e-08, 3.858, 4.78119e-08, 3.93, 5.23696e-08, 4.1424, 6.76798e-08, 4.35, 8.5567e-08, 4.3512, 8.56792e-08, 4.5528, 1.06106e-07, 4.7484, 1.29033e-07, 4.7490000000000006, 1.29108e-07, 4.7508, 1.29334e-07, 4.7715, 1.31954e-07, 4.9452, 1.55421e-07, 5.1312, 1.83624e-07, 5.1324000000000005, 1.83816e-07, 5.3196, 2.1561e-07, 5.4996, 2.49549e-07, 5.5008, 2.49786e-07, 5.502, 2.50024e-07, 5.5032, 2.50262e-07, 5.529, 2.55416e-07, 5.5305, 2.55718e-07, 5.5932, 2.68551e-07, 5.6823, 2.87526e-07, 5.6832, 2.87722e-07, 5.7732, 3.0779e-07, 5.8605, 3.28131e-07, 5.862, 3.28488e-07, 5.8632, 3.28773e-07, 5.8902, 3.35249e-07, 6.036, 3.71683e-07, 6.122400000000001, 3.94458e-07, 6.2088, 4.1813e-07, 6.21, 4.18465e-07, 6.2103, 4.18549e-07, 6.212400000000001, 4.19136e-07, 6.234, 4.25205e-07, 6.2367, 4.25968e-07, 6.2988, 4.43756e-07, 6.384, 4.68936e-07, 6.3852, 4.69297e-07, 6.4716000000000005, 4.95771e-07, 6.555, 5.22221e-07, 6.5568, 5.22802e-07, 6.558, 5.23189e-07, 6.5733, 5.28143e-07, 6.6444, 5.51561e-07, 6.729, 5.80276e-07, 6.7308, 5.80897e-07, 6.8172, 6.11206e-07, 6.9, 6.41174e-07)
V2 GND_CLAMP_REF 0 0.0
B2 DIE GND_CLAMP_REF I = table(V(DIE), -3.3, -0.931176, -2.364, -0.548983, -2.3496, -0.543127, -2.3136, -0.528493, -1.686, -0.274974, -1.6836, -0.274014, -1.6764, -0.271133, -1.674, -0.270173, -1.6476, -0.259619, -1.647, -0.25938, -1.2516, -0.104102, -1.251, -0.103874, -1.2408, -0.0999949, -1.239, -0.0993119, -1.227, -0.0947669, -1.2264, -0.0945401, -1.1256, -0.0573076, -1.0956, -0.0467198, -1.065, -0.0363158, -1.0392, -0.0279904, -1.038, -0.0276174, -1.0362, -0.0270579, -0.99, -0.0140488, -0.9888, -0.0137527, -0.987, -0.0133216, -0.9867, -0.0132498, -0.9672, -0.00902192, -0.9669, -0.00896567, -0.939, -0.00473326, -0.9384, -0.00466452, -0.9372, -0.00453921, -0.936, -0.0044139, -0.9339, -0.0042034, -0.906, -0.00237777, -0.9042, -0.00231007, -0.891, -0.00190741, -0.888, -0.00183705, -0.861, -0.00141209, -0.8514, -0.0013107, -0.8118, -0.000991013, -0.81, -0.000978513, -0.798, -0.000897704, -0.7953, -0.00088016, -0.747, -0.000597086, -0.7128, -0.000431607, -0.7008, -0.000380628, -0.699, -0.000373355, -0.6972, -0.000366083, -0.603, -0.000104104, -0.33, -2.36759e-07, -0.324, -1.99714e-07, -0.3201, -1.78532e-07, -0.315, -1.54083e-07, -0.3135, -1.47631e-07, -0.3102, -1.3419e-07, -0.3084, -1.272e-07, -0.306, -1.18792e-07, -0.297, -9.14498e-08, -0.294, -8.3775e-08, -0.2937, -8.30852e-08, -0.2871, -6.86812e-08, -0.2868, -6.80616e-08, -0.285, -6.47262e-08, -0.2796, -5.54106e-08, -0.279, -5.4518e-08, -0.276, -5.00548e-08, -0.267, -3.90651e-08, -0.2607, -3.29768e-08, -0.255, -2.84348e-08, -0.2544, -2.7983e-08, -0.2541, -2.77819e-08, -0.2436, -2.15207e-08, -0.231, -1.64142e-08, -0.2292, -1.58263e-08, -0.228, -1.54795e-08, -0.198, 0.0, -0.1968, 0.0, -0.1824, 0.0, -0.1617, 0.0, -0.159, 0.0, -0.108, 0.0, -0.1068, 0.0, -0.003, 0.0, 6.6, 0.0)

.ENDS
