*********************************************************************
*
* IBIS filename: sn74lv1t34.ibs
* Component: SN74LV1T34DBV
* Model: input_3p3
* Model Type: Input
* Corner: WeakSlow
* Voltage Range (V): [3.3 3.0 3.6] (Typ, Min, Max)
* Temperature Range (degC): [40.0 -40.0 140.0] (Typ, Min, Max)
* SPICE subcircuit model created with pybis2spice version 1.0
* For more info, visit https://github.com/kamratia1/pybis2spice/
*
*********************************************************************

.SUBCKT input_3p3-Input-WeakSlow IN

.param C_pkg = 2.4997e-13
.param L_pkg = 1.49378e-09
.param R_pkg = 0.05045
.param C_comp = 6.726e-13

R1 IN MID {R_pkg}
L1 DIE MID {L_pkg}
C1 IN 0 {C_pkg}
C2 DIE 0 {C_comp}

V1 PWR_CLAMP_REF 0 3.0
B1 DIE PWR_CLAMP_REF I = table(V(DIE), -3.5999999999999996, 0.0, 2.214, 0.0, 2.3928000000000003, 0.0, 2.394, 0.0, 2.541, 0.0, 2.5632, 0.0, 2.7261, 0.0, 2.727, 0.0, 2.7288, 0.0, 2.8872, 0.0, 2.937, 0.0, 2.9988, 0.0, 2.999999999999986, 0.0, 3.0000000000000338, 0.0, 3.0024, 0.0, 3.003, 0.0, 3.0362999999999998, 0.0, 3.0384, 0.0, 3.114, 0.0, 3.1848, 0.0, 3.186, 0.0, 3.258, 0.0, 3.33, 0.0, 3.5423999999999998, 0.0, 3.75, 0.0, 3.7512, 0.0, 3.9528, 0.0, 4.1484000000000005, 0.0, 4.149, 0.0, 4.1508, 0.0, 4.1715, 0.0, 4.3452, 0.0, 4.5312, 0.0, 4.5324, 0.0, 4.7196, 0.0, 4.8995999999999995, 0.0, 4.9008, 0.0, 4.902, 0.0, 4.9032, 0.0, 4.929, 0.0, 4.9305, 0.0, 4.9932, 0.0, 5.0823, 0.0, 5.0832, 0.0, 5.1732, 0.0, 5.2605, 0.0, 5.2620000000000005, 0.0, 5.263199999999999, 0.0, 5.2902000000000005, 0.0, 5.436, 0.0, 5.5224, 0.0, 5.6088000000000005, 0.0, 5.609999999999999, 0.0, 5.6103000000000005, 0.0, 5.6124, 0.0, 5.634, 0.0, 5.636699999999999, 0.0, 5.6988, 0.0, 5.784, 0.0, 5.7852, 0.0, 5.8716, 0.0, 5.955, 0.0, 5.956799999999999, 0.0, 5.958, 0.0, 5.9733, 0.0, 6.0443999999999996, 0.0, 6.129, 0.0, 6.1308, 0.0, 6.2172, 0.0, 6.3, 0.0)
V2 GND_CLAMP_REF 0 0.0
B2 DIE GND_CLAMP_REF I = table(V(DIE), -3.3, -0.987598, -2.364, -0.613094, -2.3496, -0.607366, -2.3136, -0.59305, -1.686, -0.34542, -1.6836, -0.344483, -1.6764, -0.341673, -1.674, -0.340737, -1.6476, -0.330442, -1.647, -0.330208, -1.2516, -0.178363, -1.251, -0.178137, -1.2408, -0.174307, -1.239, -0.173632, -1.227, -0.169135, -1.2264, -0.168911, -1.1256, -0.131572, -1.0956, -0.120641, -1.065, -0.109602, -1.0392, -0.100395, -1.038, -0.0999687, -1.0362, -0.0993307, -0.99, -0.0831468, -0.9888, -0.0827323, -0.987, -0.0821105, -0.9867, -0.082007, -0.9672, -0.0753226, -0.9669, -0.0752205, -0.939, -0.0658283, -0.9384, -0.065629, -0.9372, -0.0652304, -0.936, -0.0648318, -0.9339, -0.0641363, -0.906, -0.0550336, -0.9042, -0.0544567, -0.891, -0.0502633, -0.888, -0.049321, -0.861, -0.0410389, -0.8514, -0.0381916, -0.8118, -0.0271229, -0.81, -0.0266491, -0.798, -0.023576, -0.7953, -0.022905, -0.747, -0.0123854, -0.7128, -0.00702181, -0.7008, -0.00559802, -0.699, -0.00540301, -0.6972, -0.00521666, -0.603, -0.000664831, -0.33, -1.87746e-06, -0.324, -1.66677e-06, -0.3201, -1.54355e-06, -0.315, -1.39513e-06, -0.3135, -1.35507e-06, -0.3102, -1.26973e-06, -0.3084, -1.22534e-06, -0.306, -1.1685e-06, -0.297, -9.79122e-07, -0.294, -9.23147e-07, -0.2937, -9.17871e-07, -0.2871, -8.06612e-07, -0.2868, -8.01925e-07, -0.285, -7.73803e-07, -0.2796, -6.96287e-07, -0.279, -6.87955e-07, -0.276, -6.48671e-07, -0.267, -5.43741e-07, -0.2607, -4.80583e-07, -0.255, -4.29611e-07, -0.2544, -4.24689e-07, -0.2541, -4.22228e-07, -0.2436, -3.43358e-07, -0.231, -2.67627e-07, -0.2292, -2.58363e-07, -0.228, -2.52186e-07, -0.198, -1.38617e-07, -0.1968, -1.35372e-07, -0.1824, -1.01227e-07, -0.1617, -6.63972e-08, -0.159, -6.28114e-08, -0.108, -2.16571e-08, -0.1068, -2.1119e-08, -0.003, 0.0, 6.6, 0.0)

.ENDS
